US07585853B2
3-Amino-6-bromo-N-pyridin-3-ylpyrazine-2-carboxamide
To 3-aminopyridine (10 g, 106 mmol) at 70° C. were added methyl 3-amino-6-bromo-2-pyrazinecarboxylate (1.0 g, 4.3 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (645 μL, 4.3 mmol). The reaction solution was stirred for 4 h, diluted with water (75 mL) and extracted with methylene chloride. The combined organic layers were washed with a saturated ammonium chloride solution, dried (MgSO4), filtered and evaporated in vacuo. The crude product was purified on a silica gel column using methylene chloride/ethanol, (9:1), as the eluent to give 750 mg (59% yield) of the title compound as a yellow solid: 1H NMR (CDCl3, 400 MHz) δ 9.50 (br s, 1H), 8.82 (d, J=3 Hz, 1H), 8.43 (dd, J=5 and 1 Hz, 1H), 8.31 (s, 1H), 8.23 (ddd, J=8, 3 and 2 Hz, 1H), 7.34 (dd, J=8, 5 Hz, 1H); MS (TSP) m/z 294 (M++1).

reactant | 3-aminopyridine | 106 mmol, 10 g | NC=1C=NC=CC1 | C5H6N2
reactant | methyl 3-amino-6-bromo-2-pyrazinecarboxylate | 4.3 mmol, 1.0 g | NC=1C(=NC(=CN1)Br)C(=O)OC | C6H6BrN3O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 4.3 mmol, 645 μL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | water | 75 mL | O | H2O
product | 3-Amino-6-bromo-N-pyridin-3-ylpyrazine-2-carboxamide | 750 mg, 59% yield | NC=1C(=NC(=CN1)Br)C(=O)NC=1C=NC=CC1 | C10H8BrN5O
